US07626021B2
2,2-Dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(4-dimethylamino-benzyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester was dissolved in tetrahydrofuran. 1 M sodium hydroxide in methanol was added to the mixture, and the reaction was stirred for 2 hours at room temperature. The reaction was quenched with sodium bicarbonate solution and extracted with dichloromethane. The organic layer was dried, filtered, and concentrated. The crude material was purified by mass-triggered reverse-phase HPLC to give 2-amino-5-[3-(4-dimethylamino-benzyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide. 1H-NMR (250 MHz, DMSO-d6) δ 13.24 (s, 1H), 8.67 (d, J=2.3 Hz, 1H), 8.06 (d, J=2.3 Hz, 1H), 7.43 (dd, J=8.5, 2.3 Hz, 1H), 7.30 (d, J=2.0 Hz, 1H), 7.18 (d, J=8.8 Hz, 2H), 6.80 (d, J=8.5 Hz, 1H), 6.64 (d, J=8.8 Hz, 2H), 5.34 (s, 2H), 4.17 (s, 2H), 2.96 (s, 6H), 2.81 (s, 6H). MS: m/z 415.5 (M+H+).

reactant | 2,2-Dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(4-dimethylamino-benzyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(N=C2CC2=CC=C(C=C2)N(C)C)COC(C(C)(C)C)=O)C(N(C)C)=O | C30H36N6O3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-amino-5-[3-(4-dimethylamino-benzyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NN=C2CC2=CC=C(C=C2)N(C)C | C24H26N6O
